US07037916B2
2,4,6-trichloropyrimidine (1.0 g), L-leucine-3-ethoxypropylamide hydrochloride (17 mL of a 0.32 M solution in DMSO), and N,N-diisopropylethylamine (3.0 mL) were stirred for 24 h in 20 mL methyl sulfoxide at 60 C. The solution was cooled to room temperature and diluted with ethyl acetate (100 mL), then washed 4 times with 100 mL aliquots of a saturated aqueous solution of sodium chloride. Silica gel chromatography (gradient: 20–40–50–100% ethyl acetate in hexanes) followed by semi-preparative HPLC purification of mixed fractions provided 1.06 g of 2-(2,6-dichloropyrimidin-4-ylamino)-4-methylpentanoic acid (3-ethoxypropyl)amide as a colorless oil

reactant | 2,4,6-trichloropyrimidine | 1.0 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | L-leucine-3-ethoxypropylamide hydrochloride | Cl.C(C)OCCCNC([C@@H](N)CC(C)C)=O
reactant | N,N-diisopropylethylamine | 3.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMSO | CS(=O)C | C2H6OS
solvent | methyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-dichloropyrimidin-4-ylamino)-4-methylpentanoic acid (3-ethoxypropyl)amide | 1.06 g | C(C)OCCCNC(C(CC(C)C)NC1=NC(=NC(=C1)Cl)Cl)=O | C15H24Cl2N4O2
